US05631373
6-Bromo-3,4-dihydro-7-fluoro-quinoxaline-2(1H)-one:
N-(5'-bromo-4'-fluoro-2'-nitrophenyl)glycine sodium salt (0.450 g, 1.54 mmol, as prepared above) and tin (II) chloride dihydrate (1.039 g, 4.605 mmol, Aldrich, used as received) in ethanol (7.0 mL) was refluxed for 30 min. It was then cooled to room temperature and solvent was removed under vacuum. The residue was diluted with water (15.0 mL) and basified with 10% Na2CO3 to pH ~8. The resulting suspension was extracted with ethyl acetate (100 mL). The ethyl acetate was dried over anhydrous Na2SO4 and removed under vacuum to yield 0.241 g (64%) of the title compound as a yellow powder, m.p. 214°-216° C.; 1H NMR (DMSO-d6): δ3.684 (s, 2H), 6.062 (s, 1H), 6.631 (d, 1H, J=9.3 Hz), 6.825 (d, 1H, J=6.6 Hz), 10.303 (s, 1H).

reactant | N-(5'-bromo-4'-fluoro-2'-nitrophenyl)glycine sodium salt | 1.54 mmol, 0.450 g | [Na+].BrC=1C(=CC(=C(C1)NCC(=O)[O-])[N+](=O)[O-])F
reactant | tin (II) chloride dihydrate | 4.605 mmol, 1.039 g | O.O.[Sn](Cl)Cl
solvent | ethanol | 7.0 mL | C(C)O | C2H6O
product | 6-Bromo-3,4-dihydro-7-fluoro-quinoxaline-2(1H)-one | 0.241 g, 64% | BrC=1C=C2NCC(NC2=CC1F)=O | C8H6BrFN2O
